US06018056
Preparation of 6-Hydroxy-2-(4-Hydroxyphenyl)-3-[4(2-Piperidinoethoxy)benzoyl]benzo[b]thiophene
Boron trichloride gas is condensed into a cold graduated cylinder (2.8 ml), and added to a solution of [6-methoxy-2-(4-methoxyphenyl)-benzo-[b]-thien-3-yl] [4-[2-(1-piperidinyl)ethoxy]phenyl] methanone (6.37 g, 12.7 mmol) in 52 ml of 1,2-dichloroethane. The resulting solution is heated to 35° C. After about 16 hours the reaction is complete. Methanol (30 ml) is added to the reaction mixture over a 20 minute period, causing the methanol to reflux. The resulting slurry was stirred at 25° C. After 1 hour, the crystalline product is filtered, washed with cold methanol (8 ml), and dried at 40 ° C. in vacuo to give 5.14 g of the title compound. mp 225° C.

reactant | Boron trichloride | B(Cl)(Cl)Cl | BCl3
reactant | [6-methoxy-2-(4-methoxyphenyl)-benzo-[b]-thien-3-yl] [4-[2-(1-piperidinyl)ethoxy]phenyl] methanone | 12.7 mmol, 6.37 g | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=C(C=C2)OC)C1 | C30H31NO4S
reactant | Methanol | 30 ml | CO | CH4O
solvent | 1,2-dichloroethane | 52 ml | ClCCCl | C2H4Cl2
product | 6-Hydroxy-2-(4-Hydroxyphenyl)-3-[4(2-Piperidinoethoxy)benzoyl]benzo[b]thiophene | 5.14 g | OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)O)C1 | C28H27NO4S
